US07713994B2
4-(1-Methyl-pyrrolidin-2-yl)-phenylamine
LiHMDS (5.0 g, 30.0 mmol) is added to a 250 mL round bottom flask. Toluene (60 mL) is then added followed by addition of Pd2(dba)3.CHCl3 (390 mg, 0.39 mmol) and P(tBu)3.HBF4 (300 mg, 1.03 mmol) and 2-(4-Bromo-phenyl)-1-methyl-pyrrolidine (3.5 g, 14.5 mmol). The mixture is degassed. The resulting mixture is then stirred at room temperature overnight. After TLC suggested no starting bromide left, the reaction mixture is diluted with ether and poured into dilute HCl (aq). The ether layer is discarded, the aqueous layer is basified with NH4OH and extracted with CH2Cl2. The CH2Cl2 layer is dried and concentrated. The residue is judged by NMR to be 90% purity product (2.52 g, 90%).

reactant | LiHMDS | 30.0 mmol, 5.0 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | CHCl3 | 0.39 mmol, 390 mg | C(Cl)(Cl)Cl | CHCl3
reactant | P(tBu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | 1.03 mmol, 300 mg | [H+].[B-](F)(F)(F)F
reactant | 2-(4-Bromo-phenyl)-1-methyl-pyrrolidine | 14.5 mmol, 3.5 g | BrC1=CC=C(C=C1)C1N(CCC1)C | C11H14BrN
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Methyl-pyrrolidin-2-yl)-phenylamine | CN1C(CCC1)C1=CC=C(C=C1)N | C11H16N2
